US07432275B2
2. 4-tert-Butyl-3-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-phenylamine
To a solution of tert-butyl-[2-(2-tert-butyl-5-nitro-phenoxy)-ethoxy]-dimethylsilane (353 mg, 1.0 mmol) and calcium chloride (131 mg, 1.16 mmol) in ethanol (5 mL) and water (1 mL) add iron powder (660 mg, 11 mmol). Heat the solution at reflux for 2 hours, cool and filter through Celite. Concentrate under reduced pressure, re-dissolve in ethyl acetate and wash with brine (200 mL). Concentrate under reduced pressure to give the title compound.

reactant | tert-butyl-[2-(2-tert-butyl-5-nitro-phenoxy)-ethoxy]-dimethylsilane | 1.0 mmol, 353 mg | C(C)(C)(C)[Si](C)(C)OCCOC1=C(C=CC(=C1)[N+](=O)[O-])C(C)(C)C | C18H31NO4Si
reactant | calcium chloride | 1.16 mmol, 131 mg | [Cl-].[Ca+2].[Cl-]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 1 mL | O | H2O
catalyst | iron | 11 mmol, 660 mg | [Fe] | Fe
product | 4-tert-Butyl-3-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-phenylamine | C(C)(C)(C)C1=C(C=C(C=C1)N)OCCO[Si](C)(C)C(C)(C)C | C18H33NO2Si
